US03954871
1-(3-Methyl-4-methylthiophenyl)-2-isopropylaminoethanol lactate
To 1.2 g of 1-(3-methyl-4-methylthiophenyl)-2-isopropylaminoethanol in 32 ml of water, 0.53 g of a 85% aqueous lactic acid solution are added. The product is heated in a water-bath for 2 hours at 50°, then the solution is lyophilised. (1.55g of the salt obtained are soluble in 5 ml of water).

reactant | 1-(3-methyl-4-methylthiophenyl)-2-isopropylaminoethanol | 1.2 g | CC1=C(SC=C1C)C(CNC(C)C)O | C11H19NOS
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
solvent | water | 32 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 1-(3-Methyl-4-methylthiophenyl)-2-isopropylaminoethanol lactate | 1.55g | C(C(O)C)(=O)OC(CNC(C)C)C=1SC=C(C1C)C | C14H23NO3S
